US05607939
In trifluoroacetic acid (50 ml) was dissolved 2,2-diphenyl-1,4-butanediol (5 g) followed by addition of paraformaldehyde (1.7 g) and the mixture was heated and stirred at 50° C. for 2 hours. The reaction mixture was then concentrated under reduced pressure and the residue was dissolved in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and concentrated under reduced pressure. The residue was dissolved in ethanol (100 ml) followed by addition of sodium hydroxide (4 g) and water (50 ml) and the mixture was stirred at room temperature for 1 hour. After concentration under reduced pressure, the residue was dissolved in ethyl acetate, washed with water, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography using isopropyl ether/ethyl acetate as the eluent to provide 4-(2-hydroxyethyl)-4-phenylisochroman (4.5 g).

reactant | 2,2-diphenyl-1,4-butanediol | 5 g | C1(=CC=CC=C1)C(CO)(CCO)C1=CC=CC=C1 | C16H18O2
reactant | paraformaldehyde | 1.7 g | C=O | CH2O
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-hydroxyethyl)-4-phenylisochroman | 4.5 g | OCCC1(COCC2=CC=CC=C12)C1=CC=CC=C1 | C17H18O2
